US07947684B2
C. 3-{1-[4-(6-Methoxypyridin-3-yl)-benzoyl]-1,2,3,6-tetrahydropyridin-4 yl}benzonitrile
6-Methoxypyridin-3-ylbenzoic acid (0.7 g, 2.6 mmol) is treated with triethyl amine (0.7 ml, 5 mmol) and TBTU (0.95 g, 3.0 mmol) in DMF (5 ml). 3-(1,2,3,6-Tetrahydropyridin-4-yl)benzonitrile (0.9 g), prepared as above, is added to this suspension and the reaction mixture is heated to 35° C. with stirring for 1.5 h. Solvent is removed, the residue is dissolved in ethyl acetate, and the solution is washed with 1N HCl (2×5 ml). The precipitated solid, 3-{1-[4-(6-methoxypyridin-3-yl)-benzoyl]-1,2,3,6-tetrahydropyridin-4 yl}benzonitrile, is collected (0.60 g); a second crop (0.15 g) is obtained by saturating the organic layer with HCl. 1H NMR (DMSO) δ 8.53 (s, 1H), 8.10 (d, 1H), 7.90 (s, 1H), 7.75 (m, 4H), 4.30 (m, 3H), 6.95 (d, 1H), 6.3 (br, 1H), 4.2 (br, 2H), 3.87 (s, 3H), 3.5 (br, 2H), 2.6 (br, 2H). Ion spray MS M++1: 396.

reactant | 6-Methoxypyridin-3-ylbenzoic acid | 2.6 mmol, 0.7 g | COC1=CC=C(C=N1)C1=C(C(=O)O)C=CC=C1 | C13H11NO3
reactant | triethyl amine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | TBTU | 3.0 mmol, 0.95 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(1,2,3,6-Tetrahydropyridin-4-yl)benzonitrile | 0.9 g | N1CCC(=CC1)C=1C=C(C#N)C=CC1 | C12H12N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-{1-[4-(6-Methoxypyridin-3-yl)-benzoyl]-1,2,3,6-tetrahydropyridin-4 yl}benzonitrile | COC1=CC=C(C=N1)C1=CC=C(C(=O)N2CCC(=CC2)C=2C=C(C#N)C=CC2)C=C1 | C25H21N3O2
